US07151097B2
Preparation of Intermediate 5-(4-Chlorophenyl)-1-(2-chlorophenyl)-4-(2-oxoethoxy)-1H-pyrazole-3-carboxylic Acid Ethyl Ester (I-1f)
To a stirred solution of 4-allyloxy-5-(4-chlorophenyl)-1-(2-chlorophenyl)-1H-pyrazole-3-carboxylic acid ethyl ester I-1e (337 mg, 0.8 mmol) osmium tetroxide (53 microliters of a 0.15 M solution in water) and N-methylmorpholine-N-oxide (120 mg, 0.9 mmol) in dioxane (2.4 ml)/water (0.6 ml) was stirred at ambient temperature for 18 hours, then sodium periodate (1.7 g, 8.1 mmol) was added and stirring was continued for 3.5 hours. The thick slurry was diluted with ethyl acetate (100 ml), filtered and solids washed 2× with ethyl acetate. The combined filtrates were washed with water, brine, dried (Na2SO4) and concentrated in vacuo to afford an oil. Silica gel chromatography (25% ethyl acetate/hexanes) afforded the title compound (I-1f) as a colorless foam, 130 mg.

reactant | 4-allyloxy-5-(4-chlorophenyl)-1-(2-chlorophenyl)-1H-pyrazole-3-carboxylic acid ethyl ester | 0.8 mmol, 337 mg | C(C)OC(=O)C1=NN(C(=C1OCC=C)C1=CC=C(C=C1)Cl)C1=C(C=CC=C1)Cl | C21H18Cl2N2O3
reactant | N-methylmorpholine-N-oxide | 0.9 mmol, 120 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | sodium periodate | 8.1 mmol, 1.7 g | I(=O)(=O)(=O)[O-].[Na+]
solvent | water | O | H2O
solvent | dioxane | 2.4 ml | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 0.6 ml | O | H2O
product | 5-(4-Chlorophenyl)-1-(2-chlorophenyl)-4-(2-oxoethoxy)-1H-pyrazole-3-carboxylic Acid Ethyl Ester | C(C)OC(=O)C1=NN(C(=C1OCC=O)C1=CC=C(C=C1)Cl)C1=C(C=CC=C1)Cl | C20H16Cl2N2O4
